US05401734
To a suspension of 7β-[2-(2-aminothiazol-4-yl) -2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4-carboxylate (syn isomer) (0.54 g) in anisole (2 ml) was dropwise added trifluoroacetic acid (8 ml) under ice-cooling with stirring. After being stirred at ambient temperature, the mixture was poured into diisopropyl ether (100 ml). The resulting precipitate was collected by filtration, washed with diisopropyl ether and dried under reduced pressure. The precipitate was dissolved in water (30 ml) at pH 7.0 and acidified to pH 1.0 with 6N hydrochloric acid. After removal of precipitated materials, the aqueous solution was subjected to column chromatography on Diaion HP-20 (50 ml). The column was washed with water and the elution was carried out with 30% aqueous methanol. The active fractions were collected and lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl )methyl}ammonio]methyl-3-cephem-4-carboxylate (syn isomer) (0.28 g).

reactant | 7β-[2-(2-aminothiazol-4-yl) -2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4-carboxylate | 0.54 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+](CC=2NC=C(C(C2)=O)O)(C)C)C(=O)[O-])C1=O)=NOCC(=O)OC(C)(C)C | C27H33N7O9S2
reactant | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7β-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl )methyl}ammonio]methyl-3-cephem-4-carboxylate | 0.28 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+](CC=2NC=C(C(C2)=O)O)(C)C)C(=O)[O-])C1=O)=NOCC(=O)O | C23H25N7O9S2
